2136-03-01 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - received 1U PRBC, refused repeat HCT check
   Allergies:
   Penicillins
   Unknown;
   Meperidine   Related
   Unknown;
   Codeine
   Unknown;
   Propoxyphene
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-3-1**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 123 (115 - 132) bpm
   BP: 100/59(69) {85/44(61) - 113/71(77)} mmHg
   RR: 28 (19 - 36) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
                  Total In:
                                                                    470 mL
                                                                    120 mL
   PO:
                                                                    120 mL
                                                                    120 mL
   TF:
   IVF:
   Blood products:
                                                                    350 mL
   Total out:
                                                                    600 mL
                                                                      0 mL
   Urine:
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -130 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General: Alert, oriented, irritable, refusing full exam
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: soft cervical collar inplace
   Lungs: Speaking in short sentences, using abdominal muscles to breath.
   Coarse rhonchi left mid-upper > right. No clear rales/wheezing. Pt
   refusing to reposition for posterior exam.
   CV: Tachy but regular, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  distended but soft, non-tender, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly appreciated
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   57 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   19 mg/dL
   100 mEq/L
   137 mEq/L
   25.2 %
        [image002.jpg]
                             [**2136-2-29**]  02:03 PM
   Hct
   25.2
   Cr
   1.1
   Glucose
   57
   Assessment and Plan
   This is a 58 year old female with history of COPD on 2-4L home O2,
   Systolic CHF (EF 45-50%), Bipolar and Borderline Personality Disorder
   admitted [**2135-2-27**] for chest pain and dyspnea after 5 days of viral
   syndrome with multi-focal pneumonia and respiratory distress.
   # Respiratory Distress: Multifocal PNA of either viral, atypical or
   bacterial etiology on top of underlying COPD. Pt with history of
   multifocal PNA most likely [**2-20**] aspiration (dysfunction confirmed with
   S&S).
   - continue vanc, switch levaquin to zosyn for likely aspiration PNA
   - viral screen negative
   - standing xopenex/ipratropium nebs (pt refusing to use)
   - f/u blood cx, sputum cx
   - maintain patient slightly volume negative as HR and BP tolerate
   - hold standing tylenol, percocet to assess fever curve
   - trend WBC
   .
   # Tachycardia: Has been sinus since admission. Differential includes
   hypoxia ([**2-20**] PNA), intravascular volume depletion, PE, anemia,
   hyperthyroidism, anxiety.  Most likely [**2-20**] worsening multifocal PNA as
   seen on CXR today.  Anemia near baseline but in setting of significant
   pulmonary infiltrates, may explain current tachycardia. TSH normal.
   - received 1U PRBC, refused post tx HCT check
   - continue home psychiatric regimen, consider anxiolytic prn
   - TSH 3.8
   - cont to treat PNA
   .
   # Anemia: History of anemia of chronic inflammation with basline HCT of
   29-30. She reports both bright and dark blood in stool x5 days which
   patient attributes to internal and external hemmorhoids. Has history of
   severe gastritis on PPI and misoprostol as outpatient. Has had negative
   rectal guaiac since admission. High MCV, nl B12/folate, low Fe, low
   TIBC, low tranferrin and high ferritin consistent with anemia of
   chronic inflammation. Hemolysis labs negative.
   - continue to guaiac all stools
   - continue to trend HCT Q8H (pt refusing lab draws since [**2-29**] PM)
   - maintain active type and screen
   - 2 large bore IVs for access
   - continue IV PPI and misoprostol
   .
   # Chronic Diarrhea:Patient has chronic history of diarrhea; is
   currently afebrile and denies current diarrhea symptoms but continues
   to have loose stools. Possible viral in etiology given lack of sick
   contacts, recent travel, or introduction of new foods into diet vs. c.
   diff.
   - send stool for C.diff, hold standing bowel regimen, home laxatives
   were removed by primary floor team
   .
   # Chronic Pain: Etiology unclear
   - continue on home regimen for now, switch prn percocet to oxycodone to
   avoid antipyretic
   .
   # Psychiatric: H/o anorexia, poly-substance abuse, borderline
   personality disorder, bipolar
   - continue outpt meds for now
   - consider psych consult for managment of underlying agitation
   - confirm diagnosis/medications w/ Dr. [**Last Name (STitle) 8022**]
   .
   # FEN: No IVF for now, replete electrolytes, honey pre-thickened
   liquids
   .
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PPI
   .
   # Access: peripherals x2
   .
   # Code: FULL
   .
   # Communication: Patient and sister [**Name (NI) 2099**] [**Telephone/Fax (1) 8025**]
   .
   # Disposition: Will need to get in touch with Dr. [**Last Name (STitle) 2045**], PCP and
   daughter to discuss goals of care.  Pt is serious aspiration risk and
   likely will need a PEG tube to avoid PO intake.  Pt with severe
   underlying lung disease and would likely not tolerate intubation and
   weaning.  Pt is currently Full Code however recently mentioned in
   passing that she would not like to be intubated.  With her refusal to
   comply with an NPO diet she is at high risk of requiring intubation
   secondary to aspiration.  These issues need to be resolved with the pt
   after talking with the rest of her medical team and daughter.  Pt
   currently refusing to accept recommended interventions (fluid boluses,
   nebulizer treatments, lab draws).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2136-2-29**] 11:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2136-03-02 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-1**] Events:
   - switched levo to zosyn
   - placed patient on NPO, against patient wishes
   - patient code status confirmed as FULL CODE
   - social work consult placed
   - changed vanc dosing to [**Hospital1 **]
   Allergies:
   Penicillins
   Unknown;
   Meperidine   Related
   Unknown;
   Codeine
   Unknown;
   Propoxyphene
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2136-3-1**] 08:23 PM
   Piperacillin - [**2136-3-1**] 10:24 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-3-2**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 118 (116 - 129) bpm
   BP: 83/57(64) {83/57(64) - 137/78(91)} mmHg
   RR: 20 (20 - 41) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
                  Total In:
                                                                  1,180 mL
                  PO:
                                                                    680 mL
                  TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    800 mL
   Urine:
                                                                  1,700 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -520 mL
                                                                   -800 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 97%
   ABG: ////
   Physical Examination
   General: Alert, oriented, irritable, refusing full exam
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: soft cervical collar inplace
   Lungs: Speaking in short sentences, using abdominal muscles to breath.
   Coarse rhonchi left mid-upper > right. Intermittent wheezing. Pt
   refusing to reposition for posterior exam.
   CV: Tachy but regular, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  distended but soft, non-tender, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly appreciated
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   57 mg/dL
   1.1 mg/dL
   24 mEq/L
   3.7 mEq/L
   19 mg/dL
   100 mEq/L
   137 mEq/L
   25.2 %
        [image002.jpg]
                             [**2136-2-29**]  02:03 PM
   Hct
   25.2
   Cr
   1.1
   Glucose
   57
   Assessment and Plan
   This is a 58 year old female with history of COPD on 2-4L home O2,
   Systolic CHF (EF 45-50%), Bipolar and Borderline Personality Disorder
   admitted [**2135-2-27**] for chest pain and dyspnea after 5 days of viral
   syndrome with multi-focal pneumonia and respiratory distress.
   # Respiratory Distress: Multifocal PNA of either viral, atypical or
   bacterial etiology on top of underlying COPD. Pt with history of
   multifocal PNA most likely [**2-20**] aspiration (dysfunction confirmed with
   S&S).
   - was on vanc/zosyn for aspiration pna
 today will switch to unasyn as
   likely does not have HAP needing vanc
   - pt has agreed to have speech and swallow exam today, NPO until
   cleared
   - viral screen negative
   - standing xopenex/ipratropium nebs (pt refusing to use)
   - f/u blood cx, sputum cx
 NGTD (awaiting pt to give sputum cx)
   - maintain patient slightly volume negative as HR and BP tolerate,
   still tachy from nebs
   - hold standing tylenol, percocet to assess fever curve
   - trend WBC
   .
   # Tachycardia: Has been sinus since admission. Differential includes
   hypoxia ([**2-20**] PNA), intravascular volume depletion, PE, anemia,
   hyperthyroidism, anxiety.  Most likely [**2-20**] worsening multifocal PNA as
   seen on CXR today.  Anemia near baseline but in setting of significant
   pulmonary infiltrates, may explain current tachycardia. TSH normal.
   - received 1U PRBC [**2-29**], hct today 34 and stable
   - is on xopenex and not albuterol
   - continue home psychiatric regimen, consider anxiolytic prn
   - TSH 3.8
   - cont to treat PNA
   .
   # Anemia: History of anemia of chronic inflammation with basline HCT of
   29-30. She reports both bright and dark blood in stool x5 days which
   patient attributes to internal and external hemmorhoids. Has history of
   severe gastritis on PPI and misoprostol as outpatient. Has had negative
   rectal guaiac since admission. High MCV, nl B12/folate, low Fe, low
   TIBC, low tranferrin and high ferritin consistent with anemia of
   chronic inflammation. Hemolysis labs negative.
   - continue to guaiac all stools
   - continue to trend HCT Q8H (pt refusing lab draws since [**2-29**] PM)
   - maintain active type and screen
   - 2 large bore IVs for access
   - continue IV PPI and misoprostol
   .
   # Chronic Diarrhea:Patient has chronic history of diarrhea; is
   currently afebrile and denies current diarrhea symptoms but continues
   to have loose stools. Possible viral in etiology given lack of sick
   contacts, recent travel, or introduction of new foods into diet vs. c.
   diff.
   - send stool for C.diff, hold standing bowel regimen, home laxatives
   were removed by primary floor team
   .
   # Chronic Pain: Etiology unclear
   - continue on home regimen for now, switch prn percocet to oxycodone to
   avoid antipyretic
   .
   # Psychiatric: H/o anorexia, poly-substance abuse, borderline
   personality disorder, bipolar
   - continue outpt meds for now
   - consider psych consult for managment of underlying agitation, has
   refused to talk with them in the past
   - confirm diagnosis/medications w/ Dr. [**Last Name (STitle) 8022**]
   .
   # FEN: No IVF for now, replete electrolytes, honey pre-thickened
   liquids
   .
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PPI
   .
   # Access: peripherals x2
   .
   # Code: FULL, confirmed yesterday [**3-1**] with patient
   .
   # Communication: Patient and sister [**Name (NI) 2099**] [**Telephone/Fax (1) 8025**]
   .
   # Disposition: Will need to get in touch with Dr. [**Last Name (STitle) 2045**], PCP and
   daughter to discuss goals of care.  Pt is serious aspiration risk and
   likely will need a PEG tube to avoid PO intake.  Pt with severe
   underlying lung disease and would likely not tolerate intubation and
   weaning.  Pt is currently Full Code.  Will continue to readdress issue
   with time.  Pt currently refusing to accept recommended interventions
   (fluid boluses, nebulizer treatments, lab draws).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2136-2-29**] 11:40 AM
   22 Gauge - [**2136-2-29**] 11:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2136-03-03 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - switched abx to unasyn for aspiration coverage
   - pt failed bedside speech and swallow exam
   - continued to get out of bed and drink water despite warnings, she is
   aware of the risks of drinking but does not care
   - discussed case with psych, do not feel they would be helpful in
   medication to change behavior
   - only minimally weaned down to 3 L NC with 35% facemask, still desats
   when moving around on this level
   Allergies:
   Penicillins
   Unknown;
   Meperidine   Related
   Unknown;
   Codeine
   Unknown;
   Propoxyphene
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2136-3-2**] 06:00 AM
   Vancomycin - [**2136-3-2**] 08:15 AM
   Ampicillin/Sulbactam (Unasyn) - [**2136-3-3**] 12:13 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-3-3**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 119 (114 - 133) bpm
   BP: 100/62(69) {90/53(49) - 133/80(85)} mmHg
   RR: 20 (15 - 43) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                  2,110 mL
                                                                    100 mL
   PO:
                                                                  1,610 mL
             TF:
   IVF:
                                                                    500 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    500 mL
   Urine:
                                                                  1,450 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    660 mL
                                                                   -400 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow nasal cannula
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   General: Alert, oriented, irritable, refusing full exam
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: soft cervical collar inplace
   Lungs: Speaking in short sentences, using abdominal muscles to breath.
   Coarse rhonchi left mid-upper > right. Intermittent wheezing. Pt
   refusing to reposition for posterior exam.
   CV: Tachy but regular, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  distended but soft, non-tender, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly appreciated
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   276 K/uL
   10.7 g/dL
   103 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.0 mEq/L
   12 mg/dL
   109 mEq/L
   140 mEq/L
   32.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2136-2-29**]  02:03 PM
                             [**2136-3-2**]  06:56 AM
                             [**2136-3-3**]  04:27 AM
   WBC
   11.2
   8.7
   Hct
   25.2
   34.7
   32.2
   Plt
   292
   276
   Cr
   1.1
   1.1
   0.9
   Glucose
   57
   72
   103
   Other labs: PT / PTT / INR:13.2/30.5/1.1, Ca++:9.6 mg/dL, Mg++:1.9
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is a 58 year old female with history of COPD on 2-4L home O2,
   Systolic CHF (EF 45-50%), Bipolar and Borderline Personality Disorder
   admitted [**2135-2-27**] for chest pain and dyspnea after 5 days of viral
   syndrome with multi-focal pneumonia and respiratory distress.
   # Respiratory Distress: Multifocal PNA of either viral, atypical or
   bacterial etiology on top of underlying COPD. Pt with history of
   multifocal PNA most likely [**2-20**] aspiration (dysfunction confirmed with
   S&S).
   - unasyn for asp PNA
   - wean FiO2
   - failed speech and swallow exam, keep NPO
   - refusing NGT/PEG, will need to d/w Sister, PCP and Dr. [**Last Name (STitle) 2045**]
   - viral screen negative
   - standing ipratropium nebs, d/c xoponex
   - f/u blood cx, sputum cx
 NGTD
   .
   # Tachycardia: Has been sinus since admission. Differential includes
   hypoxia ([**2-20**] PNA), intravascular volume depletion, PE, anemia,
   hyperthyroidism, anxiety.  Most likely [**2-20**] worsening multifocal PNA as
   seen on CXR.  Anemia near baseline but in setting of significant
   pulmonary infiltrates, may explain current tachycardia. TSH normal.
   - holding beta agonists
   - received 1U PRBC [**2-29**]
   - monitor HCT
   - continue home psychiatric regimen, consider anxiolytic prn
   - cont to treat PNA
   .
   # Anemia: History of anemia of chronic inflammation with basline HCT of
   29-30. She reports both bright and dark blood in stool x5 days which
   patient attributes to internal and external hemmorhoids. Has history of
   severe gastritis on PPI and misoprostol as outpatient. Has had negative
   rectal guaiac since admission. High MCV, nl B12/folate, low Fe, low
   TIBC, low tranferrin and high ferritin consistent with anemia of
   chronic inflammation. Hemolysis labs negative.
   - continue to guaiac all stools
   - continue to trend HCT (pt intermittently refuses)
   - maintain active type and screen
   - 2 large bore IVs for access
   - continue IV PPI and misoprostol
   .
   # Chronic Diarrhea:Patient has chronic history of diarrhea; is
   currently afebrile and denies current diarrhea symptoms but continues
   to have loose stools. Possible viral in etiology given lack of sick
   contacts, recent travel, or introduction of new foods into diet vs. c.
   diff.
   - f/u C.diff, hold standing bowel regimen
   .
   # Chronic Pain: Etiology unclear
   - continue on home regimen for now, switch prn percocet to oxycodone to
   avoid antipyretic
   .
   # Psychiatric: H/o anorexia, poly-substance abuse, borderline
   personality disorder, bipolar
   - continue outpt meds for now
   - psych consult for managment of underlying agitation -> has refused to
   talk with them
   - confirm diagnosis/medications w/ Dr. [**Last Name (STitle) 8022**]
   .
   # FEN: D5W, replete electrolytes, NPO (failed S&S eval), pt refusing
   NGT/PEG, will need to c/s starting PPN
   .
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PPI
   .
   # Access: peripherals x2
   .
   # Code: FULL, confirmed [**3-1**] with patient
   .
   # Communication: Patient and sister [**Name (NI) 2099**] [**Telephone/Fax (1) 8025**]
   .
   # Disposition: Will need to get in touch with Dr. [**Last Name (STitle) 2045**], PCP and
   daughter to discuss goals of care.  Pt is serious aspiration risk and
   likely will need a PEG tube to avoid PO intake.  Pt with severe
   underlying lung disease and would likely not tolerate intubation and
   weaning.  Pt is currently Full Code.  Pt currently refusing to accept
   recommended interventions (PEG, NGT) even after completely failing S&S
   eval.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2136-2-29**] 11:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2136-03-04 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - code purple called -> psych recommends 1:1 sitter and limiting
   sedating meds
   - pt accepted NGT, TFs started
   Allergies:
   Penicillins
   Unknown;
   Meperidine   Related
   Unknown;
   Codeine
   Unknown;
   Propoxyphene
   Unknown;
   Last dose of Antibiotics:
   Piperacillin - [**2136-3-2**] 06:00 AM
   Vancomycin - [**2136-3-2**] 08:15 AM
   Ampicillin/Sulbactam (Unasyn) - [**2136-3-4**] 12:21 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2136-3-3**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2136-3-4**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.4
C (97.5
   HR: 107 (107 - 134) bpm
   BP: 102/61(70) {97/59(69) - 128/73(85)} mmHg
   RR: 16 (16 - 34) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 62 Inch
             Total In:
                                                                    770 mL
                                                                    100 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    410 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    600 mL
   Urine:
                                                                  1,400 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -630 mL
                                                                   -500 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General: Alert, oriented, irritable, refusing full exam
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: soft cervical collar inplace
   Lungs: Speaking in short sentences, using abdominal muscles to breath.
   Coarse rhonchi left mid-upper > right. Intermittent wheezing. Pt
   refusing to reposition for posterior exam.
   CV: Tachy but regular, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  distended but soft, non-tender, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly appreciated
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   223 K/uL
   9.7 g/dL
   101 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.4 mEq/L
   11 mg/dL
   110 mEq/L
   145 mEq/L
   27.2 %
   6.7 K/uL
        [image002.jpg]
                             [**2136-2-29**]  02:03 PM
                             [**2136-3-2**]  06:56 AM
                             [**2136-3-3**]  04:27 AM
                             [**2136-3-4**]  01:20 AM
   WBC
   11.2
   8.7
   6.7
   Hct
   25.2
   34.7
   32.2
   27.2
   Plt
   292
   276
   223
   Cr
   1.1
   1.1
   0.9
   0.8
   Glucose
   57
   72
   103
   101
   Other labs: PT / PTT / INR:14.5/25.4/1.3, Ca++:9.5 mg/dL, Mg++:1.9
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   This is a 58 year old female with history of COPD on 2-4L home O2,
   Systolic CHF (EF 45-50%), Bipolar and Borderline Personality Disorder
   admitted [**2135-2-27**] for chest pain and dyspnea after 5 days of viral
   syndrome with multi-focal pneumonia and respiratory distress.
   # Respiratory Distress: Multifocal PNA of either viral, atypical or
   bacterial etiology on top of underlying COPD, likely aspiration PNA. Pt
   with history of multifocal PNA most likely [**2-20**] aspiration (dysfunction
   confirmed with S&S).
   - cont unasyn for asp PNA -> leukocytosis and fever improving
   - wean FiO2 -> can tolerate 2L NC at times but prefers to use high flow
   30%
   - failed speech and swallow exam, keep NPO
   - accepted NGT/refusing PEG, will need to d/w Sister, PCP and Dr.
   [**Last Name (STitle) 2045**] for long-term nutrition options (PEG)
   - viral screen negative
   - standing ipratropium nebs
   - f/u blood cx, sputum cx
 NGTD
   .
   # Tachycardia: Has been sinus since admission. Differential includes
   hypoxia ([**2-20**] PNA), intravascular volume depletion, PE, anemia,
   hyperthyroidism, anxiety.  Most likely [**2-20**] worsening multifocal PNA as
   seen on CXR.  Anemia near baseline but in setting of significant
   pulmonary infiltrates, may explain current tachycardia. TSH normal.
   Tachycardia improving with treatment of PNA.
   - d/c xoponex
   - monitor HCT
   - continue home psychiatric regimen
   - cont to treat PNA
   .
   # Anemia: History of anemia of chronic inflammation with basline HCT of
   29-30. She reports both bright and dark blood in stool x5 days which
   patient attributes to internal and external hemmorhoids. Has history of
   severe gastritis on PPI and misoprostol as outpatient. Has had negative
   rectal guaiac since admission. High MCV, nl B12/folate, low Fe, low
   TIBC, low tranferrin and high ferritin consistent with anemia of
   chronic inflammation. Hemolysis labs negative.
   - continue to guaiac all stools
   - continue to trend HCT (pt intermittently refuses)
   - maintain active type and screen
   - 2 large bore IVs for access
   - continue IV PPI and misoprostol
   .
   # Chronic Diarrhea:Patient has chronic history of diarrhea; is
   currently afebrile and denies current diarrhea symptoms but continues
   to have loose stools. Possible viral in etiology given lack of sick
   contacts, recent travel, or introduction of new foods into diet vs. c.
   diff.
   - f/u C.diff, hold standing bowel regimen
   .
   # Chronic Pain: Etiology unclear
   - continue on home regimen for now
   .
   # Psychiatric: H/o anorexia, poly-substance abuse, borderline
   personality disorder, bipolar
   - continue outpt meds for now
   - psych consult  -> recommend 1:1 sitter and limit usage of sedatives
   - confirm diagnosis/medications w/ Dr. [**Last Name (STitle) 8022**]
   .
   # FEN: replete electrolytes, NPO (failed S&S eval), TFs -> will need
   nutrition c/s today
   .
   # Prophylaxis: Subcutaneous heparin, pneumoboots, PPI
   .
   # Access: peripherals x2
   .
   # Code: FULL, confirmed [**3-1**] with patient
   .
   # Communication: Patient and sister [**Name (NI) 2099**] [**Telephone/Fax (1) 8025**]
   .
   # Disposition: Will need to get in touch with Dr. [**Last Name (STitle) 2045**], PCP and
   daughter to discuss goals of care.  Pt is serious aspiration risk and
   likely will need a PEG tube to avoid PO intake.  Pt with severe
   underlying lung disease and would likely not tolerate intubation and
   weaning.  Pt is currently Full Code.  Pt currently refusing PEG, using
   NGT for now but will need long-term solution.  Will attempt to call-out
   to floor today -> O2 requirements near baseline.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2136-2-29**] 11:48 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: